US04731382
C. 12-Phenyldodecanoic Acid
To a solution of 1 gm Hg2Cl2 in 30 ml H2O was added 1 ml of concentrated HCl followed by 24 gms powdered Zn (portion wise) with mechanical stirring. The resulting mixture was stirred together for 5 minutes, then the liquid phase was decanted off, and 15 ml H2O was added, followed by 36 ml concentrated HCl. This mixture was cooled to room temperature (the reaction to this point is exothermic), then 5.4 gms 11-benzoylundecanoic acid was added followed by 25 ml toluene. The resulting mixture was stirred and refluxed for 20 hours; 12 ml concentrated HCl was added during the first 6 hours of the reflux. The reaction mixture was cooled, the liquid was decanted, the phases were separated and the solid was three times triturated with 25 ml ether. The aqueous phase was 3×15 ml ether extracted; all organic phases were combined, washed with water and brine and dried over MgSO4. The drying agent was filtered off, and the solvents were removed in vacuo to give a solid residue. This residue was dissolved in ether, extracted with dilute NaOH, and the organic layer was discarded. The aqueous layer was acidified with concentrated HCl, then extracted with there. This ether solution was washed with water and brine, dried over MgSO4, filtered, and evaporated in vacuo to give 4.2 gms title product which was used without further purification.

reactant | HCl | 1 ml | Cl | ClH
reactant | 11-benzoylundecanoic acid | 5.4 gms | C(C1=CC=CC=C1)(=O)CCCCCCCCCCC(=O)O | C18H26O3
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
reactant | HCl | 12 ml | Cl | ClH
solvent | H2O | 30 ml | O | H2O
solvent | ether | CCOCC | C4H10O
catalyst | Zn | 24 gms | [Zn] | Zn
product | 12-Phenyldodecanoic Acid | 4.2 gms | C1(=CC=CC=C1)CCCCCCCCCCCC(=O)O | C18H28O2
